US05607956
1-(2,4-Dimethyl-5-oxazolyl)-1-(3-thienyl)propanol
Starting with 3-bromothiophene and 2,4-dimethyl-5propionyloxazole and following the general method of Example 4 the title compound was prepared. Purification by preparative HPLC gave a white solid. M.p. 81°-83° C.

reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | 2,4-dimethyl-5propionyloxazole | CC=1OC(=C(N1)C)C(CC)=O | C8H11NO2
product | 1-(2,4-Dimethyl-5-oxazolyl)-1-(3-thienyl)propanol | CC=1OC(=C(N1)C)C(CC)(O)C1=CSC=C1 | C12H15NO2S
